US07605275B2
B. Preparation of 4-Nitro-heptanedial
To a suspension of sodium 1,7-dihydroxy-4-nitro-heptane-1,7-disulfonate, 9, (219 g, 0.57 mol) in methylene chloride (1.6 L) was added a solution of glyoxylic acid (160 g, 1.7 mol) and sodium bicarbonate (150 g, 1.78 mol) in water (2 L). The resulting mixture was stirred at room temperature for 30 to 60 minutes until all solids were dissolved. The organic layer was split and the aqueous layer was extracted with methylene chloride twice (2×400 ml). Combined extracts were then concentrated to give a colorless oil. The product was carried to next step without further purification. Yield: 85 g, 86%. 1H NMR (400 MHz, CDCl3) δ 2.09-2.24 (m, 4H), 2.58 (m, 4H), 4.61 (m, 1H), 9.77 (s, 2H). 13C NMR δ 26.2, 39.9, 86.9, 200.0.

reactant | sodium 1,7-dihydroxy-4-nitro-heptane-1,7-disulfonate | OC(CCC(CCC(S(=O)(=O)[O-])O)[N+](=O)[O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | glyoxylic acid | 1.7 mol, 160 g | C(C=O)(=O)O | C2H2O3
reactant | sodium bicarbonate | 1.78 mol, 150 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 1.6 L | C(Cl)Cl | CH2Cl2
solvent | water | 2 L | O | H2O
product | 4-Nitro-heptanedial | [N+](=O)([O-])C(CCC=O)CCC=O | C7H11NO4
